US07468364B2
4-Nitrobenzyl (5R,6S)-3-(4-ethoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.39 g) prepared in accordance to the method described in Tetrahedron Letters, 34, 3211-3214 (1993)] was dissolved in THF (28 mL), and thereto were added under ice cooling sodium hydrogencarbonate in ion-exchange water (28 mL), and 10% palladium-carbon [50% water] (0.14 g). Then the atmosphere was changed with a hydrogen gas, and the mixture was stirred at the same temperature for 3 hours. After filtration of the insoluble materials with Celite, to the filtrate was added chloroform (80 mL). The organic layer was separated, and extracted with ion-exchange water (20 mL). The organic solvent in the aqueous solution separated and extracted was removed over one hour period in vacuo, purified with C18 reverse column chromatography (Wakosil C18 reverse column, mobile phase; ion-exchange water/THF) and lyophilized to give sodium (5R,6S)-3-(4-ethoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.44 g, yield 42%).

reactant | 4-Nitrobenzyl (5R,6S)-3-(4-ethoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.39 g | C(C)OC1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H24N2O7
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | water | 28 mL | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | THF | 28 mL | C1CCOC1 | C4H8O
catalyst | palladium-carbon | 0.14 g | [C].[Pd]
product | sodium (5R,6S)-3-(4-ethoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.44 g, yield 42% | C(C)OC1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)[O-].[Na+] | InChI=1S/C17H19NO5.Na/c1-3-23-11-6-4-10(5-7-11)12-8-13-14(9(2)19)16(20)18(13)15(12)17(21)22;/h4-7,9,13-14,19H,3,8H2,1-2H3,(H,21,22);/q;+1/p-1/t9-,13-,14-;/m1./s1
